US04719203
The 3-nitrophenylacetic acid described in Example 7 is hydrogenated in methanol in the presence of palladium-charcoal to give a yield of 99% of theory of 3-aminophenylacetic acid (m.p. 116°-121° C.). In a manner analogous to that described for the p-compound (see Example 6), there is obtained therefrom, by diazotisation, 3-cyanophenylacetic acid (yield 45% of theory; m.p. 93°-98° C. (decomp.)) and by hydrogenation in dilute hydrochloric acid in the presence of platinum catalyst there is obtained 3-aminomethylcyclohexylacetic acid; yield 66% of theory; m.p. 127°-130° C. The diphosphonic acid is obtained therefrom by means of phosphorus trichloride/phosphorous acid in the manner described in Example 1 in the form of the monohydrate; yield 28% of theory; m.p. 216°-221° C. (decomp.); Mrel =0.27.

reactant | 3-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
solvent | methanol | CO | CH4O
catalyst | palladium-charcoal | [Pd] | Pd
product | 3-aminophenylacetic acid | yield of 99% | NC=1C=C(C=CC1)CC(=O)O | C8H9NO2
